US06627629B2
Preparation of 1-{(3S,4S)-4-[(S)-3-(4-fluorobenzyl)-piperidin-1-ylmethyl]-tetrahydro-pyran-3-yl}-3-[3-(1-methyl-1H-tetrazol-5-yl)-phenyl]-urea
(3S,4S)-4-[(S)-3-(4-Fluoro-benzyl)-piperidin-1-ylmethyl]-tetrahydro-pyran-3-ylamine (44 mg, 143 μmol) and [3-(1-methyl-1H-tetrazol-5-yl)-phenyl]-carbamic acid phenyl ester (47 mg, 158 μmol) were dissolved in acetonitrile (1 mL) and the mixture was stirred at room temperature. After 24 h , the mixture was concentrated, dissolved in ethyl acetate, washed with water, dried (Na2SO4) and concentrated. The residue was purified by reverse phase high pressure liquid chromatography (C18, 10-100% acetonitrile in water, containing 0.05% trifluoroacetic acid), then by flash column chromatography (5% methanol in dichloromethane, containing 0.5% ammonium hydroxide) to provide the product as a glass (16 mg, 23%). 1H NMR (300 mHz, CD3OD) δ7.95 (s, 1H), 7.52 (m, 2H), 7.43 (m, 1H), 7.05 (m, 2H), 6.86 (m, 2H), 4.19 (s, 3H), 3.94 (dd, J=10.7, 4.4 Hz, 1H), 3.87 (bd, 1H), 3.50 (td, J=9.9, 4.4 Hz, 1H), 3.39 (m, 1H), 3.09 (t, J=10.2 Hz, 1H), 2.93 (bd, 1H), 2.85 (bd, 1H), 2.56 (dd, J=12.8, 5.2 Hz, 1H), 2.45 (m, 2H), 2.30 (dd, J=12.4, 6.6 Hz, 1H), 2.04 (bt, 1H), 1.9-1.5 (7H), 1.40 (m, 1H), 0.95 (m, 1H), ESI MS: (M+H)+=508.3 (100%).

reactant | (3S,4S)-4-[(S)-3-(4-Fluoro-benzyl)-piperidin-1-ylmethyl]-tetrahydro-pyran-3-ylamine | 143 μmol, 44 mg | FC1=CC=C(C[C@H]2CN(CCC2)C[C@H]2[C@@H](COCC2)N)C=C1 | C18H27FN2O
reactant | [3-(1-methyl-1H-tetrazol-5-yl)-phenyl]-carbamic acid phenyl ester | 158 μmol, 47 mg | C1(=CC=CC=C1)OC(NC1=CC(=CC=C1)C1=NN=NN1C)=O | C15H13N5O2
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | 1-{(3S,4S)-4-[(S)-3-(4-fluorobenzyl)-piperidin-1-ylmethyl]-tetrahydro-pyran-3-yl}-3-[3-(1-methyl-1H-tetrazol-5-yl)-phenyl]-urea | 16 mg, 23% | FC1=CC=C(C[C@H]2CN(CCC2)C[C@H]2[C@@H](COCC2)NC(=O)NC2=CC(=CC=C2)C2=NN=NN2C)C=C1 | C27H34FN7O2
